US05962457
A mixture of fused zinc chloride (0.17 g, 1.25 mmol), dioxane (15 mL), 2-methyl-3-(2-methyl-phenyl)-3H-pteridin-4-one (0.174 g, 0.69 mmol, preparation 8), and 2-fluorobenzaldehyde (0.22 mL, 2.07 mmol), and acetic anhydride 0.195 mL, 2.07 mmol) was refluxed overnight. The reaction was cooled and concentrated. The residual material was partitioned between saturated aqueous sodium bicarbonate and methylene chloride. The layers were carefully shaken and separated. The organic layer was washed with brine, dried and concentrated. The residue was flash chromatographed on silica gel (0.75×4 inches) with elution proceeding as follows: 50% ethyl acetate/hexane (300 mL), forerun; 60% ethyl acetate/hexane (400 mL). 2-[2-(2-Fluoro-phenyl)-vinyl]-3-o-tolyl-3H-pteridin-4-one (0.137 g, 55%) was isolated as a yellow crystalline solid. A sample was recrystallized from ethyl acetate.

reactant | 2-methyl-3-(2-methyl-phenyl)-3H-pteridin-4-one | 0.69 mmol, 0.174 g | CC1=NC2=NC=CN=C2C(N1C1=C(C=CC=C1)C)=O | C14H12N4O
reactant | 2-fluorobenzaldehyde | 2.07 mmol, 0.22 mL | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | acetic anhydride | 2.07 mmol, 0.195 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(2-Fluoro-phenyl)-vinyl]-3-o-tolyl-3H-pteridin-4-one | 0.137 g, 55% | FC1=C(C=CC=C1)C=CC1=NC2=NC=CN=C2C(N1C1=C(C=CC=C1)C)=O | C21H15FN4O
